.include IRFZ24N.cir
.include IRF9Z34N.cir

.SUBCKT HS vcc gnd ctrl load
Xpmos load gate vcc IRF9Z34N
Rp1 vcc gate 10k
Rs1 d gate 100
Xnmos d g gnd IRFZ24N
Rp2 g gnd 10k
Rs2 ctrl g 100
.ENDS

.SUBCKT LS gnd ctrl load
Xnmos load gate gnd IRFZ24N
Rp gate gnd 10k
Rs ctrl gate 100
.ENDS