H-Bridge Driver
.tran 1u 0.02

V1 vcc gnd PULSE(0 24 0 1u 1u 1 1)
Vctrl1 ctrl1 gnd PULSE(0 5 0 1u 1u 0.005 0.01)
Vctrl2 ctrl2 gnd PULSE(0 5 0.005 1u 1u 0.005 0.01)

Rload o1 o2 1k

XS1 vcc gnd ctrl1 o1 HS
XS2 gnd ctrl2 o1 LS
XS3 vcc gnd ctrl2 o2 HS
xS4 gnd ctrl1 o2 LS

.control
run
set filetype=ascii
write test.data vcc ctrl1 ctrl2 v(o1,o2)
.endc


**************************************
.SUBCKT HS vcc gnd ctrl load
Xpmos load gate vcc irf9z34n_IR
Rp1 vcc gate 10k
Rs1 d gate 100
Xnmos d g gnd irfz24n_IR
Rp2 g gnd 10k
Rs2 ctrl g 100
.ENDS
**************************************

**************************************
.SUBCKT LS gnd load ctrl
Xnmos load 2 gnd irfz24n_IR
Rp 2 gnd 10k
Rs ctrl 2 100
.ENDS
**************************************

**************************************
.SUBCKT irfz24n_IR 1 2 3
M1 9 7 8 8 MM L=100u W=100u
.MODEL MM NMOS LEVEL=1 IS=1e-32
+VTO=3.6319 LAMBDA=0 KP=8.99346
+CGSO=3.09714e-06 CGDO=1.6185e-07
RS 8 3 0.0409355
D1 3 1 MD
.MODEL MD D IS=1.43387e-10 RS=0.0112766 N=1.28803 BV=55
+IBV=0.00025 EG=1.2 XTI=2.96465 TT=0
+CJO=2.96476e-10 VJ=0.50803 M=0.3 FC=0.5
RDS 3 1 2.2e+06
RD 9 1 0.0001
RG 2 7 2.4575
D2 4 5 MD1
.MODEL MD1 D IS=1e-32 N=50
+CJO=4.37817e-10 VJ=0.5 M=0.578699 FC=1e-08
D3 0 5 MD2
.MODEL MD2 D IS=1e-10 N=0.4 RS=3e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 6.81971e-10
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 0 6 MD3
.MODEL MD3 D IS=1e-10 N=0.4
.ENDS

**************************************
.SUBCKT irf9z34n_IR 1 2 3
M1 9 7 8 8 MM L=100u W=100u
.MODEL MM PMOS LEVEL=1 IS=1e-32
+VTO=-3.18176 LAMBDA=0 KP=2.52466
+CGSO=4.9266e-06 CGDO=1e-11
RS 8 3 0.0001
D1 1 3 MD
.MODEL MD D IS=2.51148e-12 RS=0.0124373 N=1.05244 BV=55
+IBV=0.00025 EG=1 XTI=2.91741 TT=0.0001
+CJO=4.87958e-10 VJ=5 M=0.731488 FC=0.5
RDS 3 1 1e+06
RD 9 1 0.028942
RG 2 7 6
D2 5 4 MD1
.MODEL MD1 D IS=1e-32 N=50
+CJO=8.50824e-10 VJ=0.5 M=0.456256 FC=1e-08
D3 5 0 MD2
.MODEL MD2 D IS=1e-10 N=0.4 RS=3e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 8.50824e-10
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 6 0 MD3
.MODEL MD3 D IS=1e-10 N=0.4
.ENDS irf9z34n_IR
**************************************

.end
